US08426448B2
Dissolve 4-[(R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-2-oxo-5-(3-trifluoromethoxy-phenyl)-2,5-dihydro-pyrrol-1-yl]-benzonitrile (1.06 g, 1.94 mmol) in acetic acid (19.4 mL) and add sodium cyanoborohydride (609 mg. 9.70 mmol). Stir 1 hr. at ambient temperature. Concentrate under reduced pressure. Dissolve the residue in dichloromethane and concentrate. Partition the residue between dichloromethane and 5% NaHCO3 solution and extract with dichloromethane. Combine dichloromethane extracts, dry over magnesium sulfate, filter and concentrate under reduced pressure. Purify the residue by silica gel chromatography (25% ethyl acetate-hexane) to obtain 4-[(3R,5R)-3-[1-Methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-2-oxo-5-(3-trifluoromethoxy-phenyl)-pyrrolidin-1-yl]-benzonitrile (751 mg, 71%). 1H NMR (400 MHz, CDCl3) δ 7.80-7.76 (m, 2H), 7.50-7.46 (m, 3H), 7.38 (d, J=8.8 Hz, 2H), 7.29-7.23 (m, 1H), 7.05 (t, J=7.3 Hz, 2H), 6.95 (s, 1H), 4.98 (dd, J=6.2, 9.7 Hz, 1H), 3.46 (dd, J=8.1, 10.8 Hz, 1H), 2.83-2.74 (m, 1H), 1.85-1.76 (m, 1H), 1.54 (d, J=7.0, 6H). LC-MS ESI m/z: 549.0 (M+H)+, Tr=2.285 min., method 2.

reactant | 4-[(R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-2-oxo-5-(3-trifluoromethoxy-phenyl)-2,5-dihydro-pyrrol-1-yl]-benzonitrile | 1.94 mmol, 1.06 g | CC(C)(C1=NC(=CC=C1)C(F)(F)F)NC=1C(N([C@H](C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C#N)C=C1)=O | C27H20F6N4O2
reactant | sodium cyanoborohydride | 9.70 mmol, 609 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 19.4 mL | C(C)(=O)O | C2H4O2
product | 4-[(3R,5R)-3-[1-Methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-2-oxo-5-(3-trifluoromethoxy-phenyl)-pyrrolidin-1-yl]-benzonitrile | 751 mg, 71% | CC(C)(C1=NC(=CC=C1)C(F)(F)F)N[C@H]1C(N([C@H](C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C#N)C=C1)=O | C27H22F6N4O2
